US06583135B2
Preparation of 3-Benzyl-10-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A solution of lithium aluminum hydride (0.73 g, 19.2 mmol) in tetrahydrofuran (10.0 mL) and a solution of 3-benzoyl-10-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.73 g, 2.0 mmol) in tetrahydrofuran (20.0 mL) at 0° C. were reacted in a manner similar to Example 1 to give 0.67 g (96%) of the title compound as a white crystalline solid: mp 161-163° C.; 1H NMR (400 MHz, CDCl3) δ 7.83, 7.43-7.23, 7.14-7.10, 6.91, 3.70, 2.93-2.90, 2.86-2.83, 2.65-2.62, 2.42-2.40; 13C NMR (100 MHz, CDCl3) δ 142.0, 139.3, 137.2, 135.0, 134.7, 129.7, 128.9, 128.2, 127.6, 126.9, 126.6, 126.0, 121.6, 120.6, 113.6, 109.5, 61.8, 55.8, 53.4, 28.5, 25.9; IR (drift) 3407, 2810, 1454, 1377, 1347, 1334, 1319, 1175, 1120, 932, 785, 762, 754, 742, 700 cm−1; MS (EI) m/z 352 (M+); HRMS (FAB) calcd for C25H24N2+H: 353.2018, found: 353.2039; Anal. Calcd for C25H24N2: C, 85.19; H, 6.86; N, 7.95. Found: C, 84.83; H, 6.94; N, 7.83.

reactant | lithium aluminum hydride | 19.2 mmol, 0.73 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzoyl-10-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 2.0 mmol, 0.73 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=CC=CC=C1 | C25H22N2O
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20.0 mL | O1CCCC1 | C4H8O
product | 3-Benzyl-10-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.67 g, 96% | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=CC=CC=C1 | C25H24N2
